US06555557B1
3,5-Dichloropyridine (4.4 g, 30 mmol) is dissolved in THF (100 ml), and thereto is added a solution of n-butyl lithium in hexane (19 ml, 30 mmol) at −70° C., and the mixture is stirred for 15 minutes. 1-Bromo-3-methoxymethoxypropane (6.0 g, 33 mmol) is added to the mixture, and the mixture is warmed to 0° C. over a period of time for one hour. The reaction is quenched with a saturated brine (50 ml), and the mixture is extracted with ethyl acetate (150 ml×2). The organic layer is washed with a saturated brine (100 ml×2), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: ethyl acetate/hexane) to give 1-(3,5-dichloropyridin-4-yl)-3-methoxymethoxypropane (1.0 g) as an oil.

reactant | 3,5-Dichloropyridine | 30 mmol, 4.4 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 30 mmol, 19 ml | CCCCCC | C6H14
reactant | 1-Bromo-3-methoxymethoxypropane | 33 mmol, 6.0 g | BrCCCOCOC | C5H11BrO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(3,5-dichloropyridin-4-yl)-3-methoxymethoxypropane | 1.0 g | ClC=1C=NC=C(C1CCCOCOC)Cl | C10H13Cl2NO2
